US05604237
Ethyl 3-(3-hydroxy-4-nitrophenyl)-2-propenoate
To a solution of 3-hydroxy-4-nitrobenzaldehyde (5 g) in toluene (50 ml) was added carbethoxymethylenetriphenylphosphorane (8.96 g), and the mixture was heated under reflux for 2 h. The mixture was then concentrated and the residue was purified by column chromatography eluting with cyclohexane:ethyl acetate (6:4) to give the title compound. (6.2 g) as a solid, m.p. 95°.

reactant | 3-hydroxy-4-nitrobenzaldehyde | 5 g | OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H5NO4
reactant | carbethoxymethylenetriphenylphosphorane | 8.96 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-(3-hydroxy-4-nitrophenyl)-2-propenoate | OC=1C=C(C=CC1[N+](=O)[O-])C=CC(=O)OCC | C11H11NO5
